US06489347B1
4-(4-Fluorophenyl)-3-hydroxymethylpiperidine-6-one
DIBAL-H (15.1 ml, 0.0225 mol) was added at a rate of 50 ml/hour, by means of a syringe pump, to a solution of 3-carboxyethyl-4-(4-fluorophenyl)-piperidine-6-one (1.99 g, 0.0075 mol) in tetrahydrofuran (15 ml) at −70° C. under an argon atmosphere keeping the temperature below 0° C. The mixture was allowed to warm to 23° C. and stirred for 45 minutes, then a solution of methanol (0.9 ml) in toluene (7.5 ml) was added to destroy the excess DIBAL-H, followed by 30% potassium carbonate solution (8.5 ml), all below 30° C. The organic phase was separated, dried with anhydrous sodium sulphate, filtered, and evaporated to afford the title compound (1.54 g) as a slightly colored oil, which was crystallized by trituration with ether. Yield 67%.

reactant | DIBAL-H | 0.0225 mol, 15.1 ml | CC(C)C[AlH]CC(C)C
reactant | 3-carboxyethyl-4-(4-fluorophenyl)-piperidine-6-one | 0.0075 mol, 1.99 g | C(=O)(O)CCC1CNC(CC1C1=CC=C(C=C1)F)=O | C14H16FNO3
reactant | methanol | 0.9 ml | CO | CH4O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | toluene | 7.5 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4-Fluorophenyl)-3-hydroxymethylpiperidine-6-one | 1.54 g, Yield 67% | FC1=CC=C(C=C1)C1C(CNC(C1)=O)CO | C12H14FNO2
